US07319104B2
2-[4-(2-{[2,4-Bis(trifluoromethyl)benzyl][4-(2-chlorophenyl)-1,3-thiazol-2-yl]amino}ethyl)phenoxy]-2-methylpropanoic acid
Similarly prepared from ethyl 2-[4-(2-{(aminocarbonothioyl)[2,4-bis(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate and 2-chlorophenacyl bromide.

reactant | ethyl 2-[4-(2-{(aminocarbonothioyl)[2,4-bis(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | NC(=S)N(CCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1)CC1=C(C=C(C=C1)C(F)(F)F)C(F)(F)F | C24H26F6N2O3S
reactant | 2-chlorophenacyl bromide | ClC1=C(C(CBr)=O)C=CC=C1 | C8H6BrClO
product | 2-[4-(2-{[2,4-Bis(trifluoromethyl)benzyl][4-(2-chlorophenyl)-1,3-thiazol-2-yl]amino}ethyl)phenoxy]-2-methylpropanoic acid | FC(C1=C(CN(CCC2=CC=C(OC(C(=O)O)(C)C)C=C2)C=2SC=C(N2)C2=C(C=CC=C2)Cl)C=CC(=C1)C(F)(F)F)(F)F | C30H25ClF6N2O3S
